US09062032B2
A mixture of 150 mg of 4-{[(2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}benzoic acid, 57 mg of N,N-diethyl-p-phenylenediamine, 61 mg of WSC.hydrochloride, 42 mg of HOBt, and 1.5 mL of methylene chloride was stirred for 3 hours at room temperature. Water was added to the reaction mixture, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by basic silica gel column chromatography (2% methanol/chloroform), thereby obtaining an oily material. Methanol and 4.0 M hydrogen chloride/ethyl acetate solution were added to this material, and the solution was concentrated under reduced pressure. The residue was treated with ethyl acetate, thereby obtaining 85 mg of N-(4-{[4-(diethylamino)phenyl]carbamoyl}phenyl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride.

reactant | 4-{[(2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}benzoic acid | 150 mg | N1(CCOCC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1 | C28H29N3O5S
reactant | N,N-diethyl-p-phenylenediamine | 57 mg | C(C)N(C1=CC=C(C=C1)N)CC | C10H16N2
reactant | WSC | 61 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydrochloride | Cl | ClH
reactant | HOBt | 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrogen chloride ethyl acetate | 4.0 M | Cl.C(C)(=O)OCC
solvent | Methanol | CO | CH4O
solvent | Water | O | H2O
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[4-(diethylamino)phenyl]carbamoyl}phenyl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride | 85 mg | Cl.Cl.C(C)N(C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(C2=CC(=CC=C2)CN2CCOCC2)=O)CC | InChI=1S/C38H43N5O4S.2ClH/c1-3-43(4-2)31-18-16-30(17-19-31)39-35(44)27-12-14-29(15-13-27)40-37(46)34-32-10-5-6-11-33(32)48-38(34)41-36(45)28-9-7-8-26(24-28)25-42-20-22-47-23-21-42;;/h7-9,12-19,24H,3-6,10-11,20-23,25H2,1-2H3,(H,39,44)(H,40,46)(H,41,45);2*1H
